US07452886B2
N-{4-[2-Cyano-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidin-6-ylmethyl]-phenyl}-acetamide
To a solution of 6-(4-amino-benzyl)-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile (0.3 mmol) in CH2Cl2 (4 mL), triethylamine(0.36 mmol) and acetyl chloride (0.36 mmol) is added at 0° C. The reaction mixture stirred at room temperature for 1 day. The mixture is quenched with saturated ammonium chloride and extracted with two 50 ml portions of AcOEt. The combined extracts are washed with brine, dried over sodium sulfate and concentrated under vacuum to crude product. Purification of the residue by silica gel column chromatography affords title compound in 84% yield.

reactant | 6-(4-amino-benzyl)-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 0.3 mmol | NC1=CC=C(CC2=CC3=C(N=C(N=C3)C#N)N2CC(C)(C)C)C=C1 | C19H21N5
reactant | triethylamine | 0.36 mmol | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.36 mmol | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | N-{4-[2-Cyano-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidin-6-ylmethyl]-phenyl}-acetamide | 84% yield | C(#N)C=1N=CC2=C(N1)N(C(=C2)CC2=CC=C(C=C2)NC(C)=O)CC(C)(C)C | C21H23N5O
